US04886806
Under the conditions described in Example 1 (a) 3.6 g 3',4',5'-trimethoxyflavone-3-carboxylic acid were converted with 2.1 g 4-dimethylaminopyridine and 0.72 ml mesyl chloride in 100 ml absolute dichloromethane into the mixed anhydride, and this was then reacted under the conditions described in Example 4 (d) with 2.2 g of 4-[4-(2-pyridyl)-piperazin-1-yl]-butylamine. The reaction mixture was then worked up analogously to Example 4 (d). 3.4 g of 3',4',5'-trimethoxy-3-{4-[4-(2-pyridyl)-piperazin-1-yl]-butylaminocarbonyl}flavone were obtained.

reactant | 3',4',5'-trimethoxyflavone-3-carboxylic acid | COC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)O)=O)C=C(C1OC)OC | C19H16O7
reactant | mesyl chloride | 0.72 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 4-[4-(2-pyridyl)-piperazin-1-yl]-butylamine | 2.2 g | N1=C(C=CC=C1)N1CCN(CC1)CCCCN | C13H22N4
catalyst | 4-dimethylaminopyridine | 2.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3',4',5'-trimethoxy-3-{4-[4-(2-pyridyl)-piperazin-1-yl]-butylaminocarbonyl}flavone | 3.4 g | COC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)NCCCCN2CCN(CC2)C2=NC=CC=C2)=O)C=C(C1OC)OC | C32H36N4O6
